US05667721
A solution of 1.72 g of (E)-2-[4-(5-but-1-enyl-1,3-dioxan-2-yl)butyl]-1,3-propanediol and 1.0 g of 3,4-difluorobenzaldehyde in 30 ml of benzene is heated to slight boiling with 35 mg of p-toluenesulfonic acid monohydrate for 1 hour. After neutralization of the solution with a few drops of triethylamine the mixture is washed with water, dried over sodium sulfate, filtered and the filtrate is evaporated. The crude product is chromatographed on 40 g of silica gel with hexane/ethyl acetate 5% (v/v). Two-fold crystallization of the resulting isomer mixture from hexane yields pure (E)-trans-2-(3,4-difluorophenyl)-5-[4-(trans-5-but-1-enyl-1,3-dioxane.

reactant | (E)-2-[4-(5-but-1-enyl-1,3-dioxan-2-yl)butyl]-1,3-propanediol | 1.72 g | C(=C\CC)/C1COC(OC1)CCCCC(CO)CO | C15H28O4
reactant | 3,4-difluorobenzaldehyde | 1.0 g | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | p-toluenesulfonic acid monohydrate | 35 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | trans-5-but-1-enyl-1,3-dioxane | C(=C\CC)/C1COCOC1 | C8H14O2
